US09284323B2
A solution of (S)-ethyl 2-(3,6-dimethyl-1-(trifluoromethyl-sulfonyloxy)naphthalen-2-yl)-2-hydroxyacetate (7.5 g, 18.5 mmol) in tBuOAc (100 mL) at room temperature was treated with perchloric acid (70%, 0.16 mL, 1.8 mmol) and allowed to stir at room temperature overnight. The reaction was slowly poured into ice-cold saturated NaHCO3 (150 mL). The aqueous layer was extracted with EtOAc and the combined organics washed with brine and dried over anhydrous MgSO4 and filtered. Following concentration in vacuo, purification of the residue by Yamazen silica gel column chromatography (2-20-50% EtOAc/hex) afforded (S)-ethyl 2-tert-butoxy-2-(3,6-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate. LCMS-ESI+ (m/z): [M+Na]+ calcd for C21H25F3O6SNa: 485.5. found: 485.8.

reactant | (S)-ethyl 2-(3,6-dimethyl-1-(trifluoromethyl-sulfonyloxy)naphthalen-2-yl)-2-hydroxyacetate | 18.5 mmol, 7.5 g | CC=1C(=C(C2=CC=C(C=C2C1)C)OS(=O)(=O)C(F)(F)F)[C@@H](C(=O)OCC)O | C17H17F3O6S
reactant | perchloric acid | 1.8 mmol, 0.16 mL | Cl(=O)(=O)(=O)O | ClHO4
solvent | tBuOAc | 100 mL | C(C)(C)(C)OC(=O)C | C6H12O2
product | (S)-ethyl 2-tert-butoxy-2-(3,6-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=C(C=C2C=C1C)C)OS(=O)(=O)C(F)(F)F | C21H25F3O6S
